US04794138
In a modification of this Friedel-Crafts reaction, 2,6-di-methylphenol is treated with acrylonitrile in the presence of aluminum chloride to yield 3-(3,5-dimethyl-4-hydroxyphenyl)propionitrile. Upon hydrolysis of this and esterification of the resulting free acid with methanol and p-toluenesulfonic acid, there is obtained methyl 3-(3,5-dimethyl-4-hydroxyphenyl)propionate, M.P. 70°-83° C.

reactant | 2,6-di-methylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(3,5-dimethyl-4-hydroxyphenyl)propionitrile | CC=1C=C(C=C(C1O)C)CCC#N | C11H13NO
